US08314117B2
1-(1-(2-((5S,6S,9R)-5-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl)acetyl)piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one.
To a methylene chloride (5 mL) solution of tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(2-oxo-2-(4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidin-1-yl)ethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate (0.1452 g, 0.229 mmol) was added TFA (1 ml, 12.98 mmol) at room temperature. The reaction was stirred at room temperature for 3 h before removal of the solvent in vacuo. The crude mixture was partitioned between ethyl acetate and water. Sodium bicarbonate (sat) was added and the ethyl acetate layer was separated. The ethyl acetate layer was dried (sodium sulfate), filtered and concentrated. Flash chromatography using methanol in methylene chloride from 0 to 10% gave a product that was still somewhat impure. The product was further purified by prep TLC eluting with 10% methanol in methylene chloride (25.9 mg, 20%): MS(ESI)[M+H+]=533.29; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.47 (1H, td, J=5.3, 3.5 Hz), 8.09 (1H, d, J=5.3 Hz), 7.49-7.58 (1H, m), 7.27-7.34 (1H, m), 7.18 (1H, ddd, J=15.3, 7.4, 4.9 Hz), 6.95-7.10 (4H, m), 4.87 (1H, d, J=13.1 Hz), 4.57-4.76 (1H, m), 4.44 (1H, d, J=13.1 Hz), 4.10-4.33 (2H, m), 3.46-3.67 (1H, m), 3.20-3.40 (2H, m), 2.39-2.79 (3H, m), 1.50-2.33 (9H, m).

reactant | tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(2-oxo-2-(4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidin-1-yl)ethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate | 0.229 mmol, 0.1452 g | FC1=C(C=CC=C1F)[C@H]1[C@@H](C=2C(=NC=CC2)[C@H](CC1)CC(N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)=O)NC(OC(C)(C)C)=O | C34H38F2N6O4
reactant | TFA | 12.98 mmol, 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-(2-((5S,6S,9R)-5-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl)acetyl)piperidin-4-yl)-1H-imidazo[4,5-b]pyridin-2(3H)-one | N[C@H]1[C@@H](CC[C@@H](C2=NC=CC=C21)CC(=O)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O)C1=C(C(=CC=C1)F)F | C29H30F2N6O2
